US06589921B2
A solution of 7.50 g (50.0 mmol) 2-formylbenzoic acid, 4.88 g (40.0 mmol) 4-dimethyl aminopyridine (DMAP) and 15.60 g (100.0 mmol) citronellol in 75 ml dichloromethane was cooled in an ice bath before addition of a solution of 11.35 g (55.0 mmol) dicyclohexylcarbodiimide (DCC) in 25 ml dichloromethane for 15 min. The reaction medium was maintained with stirring at 0° for 15 min, then at 20° for 48 h. The precipitate formed during the reaction was filtered and the filtrate washed with HCl (10%, 2×) and with a saturated Na2CO3 solution (2×). The organic phase was dried over Na2SO4, concentrated and chromatographed twice (SiO2, ethyl toluene/ethyl acetate 19:1 and SiO2, toluene) to give 2.25 g (16%) 3,7 dimethyl-6-octenyl 2-formylbenzoate in the pure state in the form of a colourless oil.

reactant | 2-formylbenzoic acid | 50.0 mmol, 7.50 g | C(=O)C1=C(C(=O)O)C=CC=C1 | C8H6O3
reactant | citronellol | 100.0 mmol, 15.60 g | CC(C)=CCCC(C)CCO | C10H20O
reactant | dicyclohexylcarbodiimide | 55.0 mmol, 11.35 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 3,7 dimethyl-6-octenyl 2-formylbenzoate | 2.25 g, 16% | C(=O)C1=C(C(=O)OCCC(CCC=C(C)C)C)C=CC=C1 | C18H24O3
